US09023998B2
Synthesis of [Ethyl 5-(methyl(phenyl)amino)pentanoate] (SKC659)
5.52 ml (48 mmol) of N-Methyl aniline, 8 ml Bromovalerate (50.2 mmol) and 2,6-lutidine (5.82 ml, 50.2 mmol) were taken in 100 ml acetonitrile and the reaction was refluxed for 24 hour under stirring. Acetonitrile was removed under vacuum and residues were dissolved in ether. The organic phase was washed with water. After drying over magnesium sulfate and filtering, the solvent was removed to give a brown liquid. The residue was purified by flash chromatography on silica gel using a 10% ethyl acetate in hexane as eluent gave 10.1 g light yellow oil as product. MW C14H21NO2 235.32 g/mol (yields 90%).

reactant | N-Methyl aniline | 48 mmol, 5.52 ml | CNC1=CC=CC=C1 | C7H9N
reactant | Bromovalerate | 50.2 mmol, 8 ml | BrC(C(=O)[O-])CCC
reactant | 2,6-lutidine | 50.2 mmol, 5.82 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Ethyl 5-(methyl(phenyl)amino)pentanoate | CN(CCCCC(=O)OCC)C1=CC=CC=C1 | C14H21NO2
